US07713994B2
6-tert-Butyl-4-{[(4-hydroxy-5-propoxy-pyridin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione
An amount of 50.0 mg (0.193 mmol) of (4E)-6-tert-butyl-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione, is dissolved in N,N-dimethylformamide (3 mL), followed by the addition of 35 mg (0.193 mmol) of 2-aminomethyl-5-propoxy-pyridin-4-ol. All solids dissolved and after the mixture is stirred at room temperature for 2 hours, the solution is evaporated to dryness in vacuo, treated with acetonitrile, filtered and washed several times with fresh acetonitrile and dried to give 52 mg of the title compound as a light pink solid (66% yield); mp 162-178° C. dec, MS data ES(+) 410.4 m/e.

reactant | (4E)-6-tert-butyl-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.193 mmol, 50.0 mg | C(C)(C)(C)C=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C15H17NO3
reactant | 2-aminomethyl-5-propoxy-pyridin-4-ol | 0.193 mmol, 35 mg | NCC1=NC=C(C(=C1)O)OCCC | C9H14N2O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 6-tert-Butyl-4-{[(4-hydroxy-5-propoxy-pyridin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione | 52 mg, 66% yield | C(C)(C)(C)C=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC1=NC=C(C(=C1)O)OCCC | C23H27N3O4
